US05703092
4-Biphenyl Butanoic Acid
To a solution of the above (5.71 g, 10.8 mmol) in 67 ml THF/17 ml water cooled to 0° C. was added a mixture 8.8 ml of 30% H2O2 43.3 mmol of LiOH. The solution was evaporated after 1.5 h, and the resulting material acidified with 10% citric acid. The organic material was extracted with ethyl acetate, washed with water and brine and dried over MgSO4. Filtration and removal of solvent gave a slurry containing the oxazolidinone and crude acid. Addition of ether and a seed crystal of S-4-(phenylmethyl)oxazolidinone followed by cooling to -20, gave a solid precipitate which was removed by filtration. The product acid was further purified by making a dicylohexylamine salt and recrystalizing from ether. The acid was then free based using 5% KHSO4 to give the acid as a crystailne product that could be used without further purification in the next step.

reactant | H2O2 | 43.3 mmol, 8.8 ml | OO | H2O2
reactant | LiOH | [Li+].[OH-]
reactant | oxazolidinone | O1C(NCC1)=O | C3H5NO2
reactant | ether | CCOCC | C4H10O
reactant | THF | 67 ml | C1CCOC1 | C4H8O
product | 4-Biphenyl Butanoic Acid | C1(=CC=C(C=C1)CCCC(=O)O)C1=CC=CC=C1 | C16H16O2
